US05661147
7-ethylamino-6-nitro-4-(5-thiomorpholinopentylamino)quinazoline
Thiomorpholine (6 ml, 59.7 mmol) was added to a dimethylformamide solution (30 ml) of 4-(5-chloropentylamino)-7-ethylamino-6-nitroquinazoline (2.50 g, 7.41 mmol) obtained in Reference Example 66 and the mixture was heated under reflux for 3 hours. After the solvent was distilled off, the residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to give the title compound (2.95 g, 98.7%).

reactant | Thiomorpholine | 59.7 mmol, 6 ml | N1CCSCC1 | C4H9NS
reactant | 4-(5-chloropentylamino)-7-ethylamino-6-nitroquinazoline | 7.41 mmol, 2.50 g | ClCCCCCNC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])NCC | C15H20ClN5O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-ethylamino-6-nitro-4-(5-thiomorpholinopentylamino)quinazoline | 2.95 g, 98.7% | C(C)NC1=C(C=C2C(=NC=NC2=C1)NCCCCCN1CCSCC1)[N+](=O)[O-] | C19H28N6O2S
